US09340549B2
To a solution of (S)-2-methoxy-2-oxo-1-(o-tolyl)ethanaminium chloride (1 g, 4.6 mmol) in EtOH (10 mL) were added NaHCO3 (1.558 g, 18.5 mmol) and di-tert-butyl dicarbonate (1.51 g, 6.9 mmol). The resulting reaction mixture was stirred for 12 hours at ambient temperature. After completion of the reaction (monitored by TLC, TLC system: 30% EtOAc in hexane), the reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated. The residue was purified by column chromatography using silica gel and eluting with 20% EtOAc in hexane to afford (S)-methyl 2-((tert-butoxycarbonyl)amino)-2-(o-tolyl)acetate, 1.29 g (99.61% Y) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.74 (d, J=8.3 Hz, 1H), 7.21-7.18 (m, 4H), 5.42 (d, J=8.3 Hz, 1H), 3.62 (s, 3H), 2.33 (s, 3H), 1.38 (s, 9H).

reactant | (S)-2-methoxy-2-oxo-1-(o-tolyl)ethanaminium chloride | 4.6 mmol, 1 g | [Cl-].COC([C@@H]([NH3+])C1=C(C=CC=C1)C)=O
reactant | NaHCO3 | 18.5 mmol, 1.558 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 6.9 mmol, 1.51 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | hexane | CCCCCC | C6H14
product | (S)-methyl 2-((tert-butoxycarbonyl)amino)-2-(o-tolyl)acetate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C1=C(C=CC=C1)C | C15H21NO4
